US09328099B2
tert-Butyl 3-oxocyclohexanecarboxylate
Anhydrous MgSO4 (3.4 g, 28 mmol) was suspended in DCM (28.1 mL) and to this vigorously stirred mixture was added concentrated sulfuric acid (0.7 g, 7 mmol). The resulting mixture was allowed to stir at ambient temperature for 30 minutes. 3-Oxocyclohexanecarboxylic acid (1.0 g, 7.0 mmol) was added followed by t-BuOH (2.6 g, 35 mmol). The resulting mixture was allowed to stir for 24 hours before it was filtered and flushed with DCM. The filtrate was washed with water, and the organic layer was again washed with water, brine, dried over anhydrous MgSO4, filtered, and concentrated in vacuo to afford the title compound. The residue was used without further purification.

reactant | MgSO4 | 28 mmol, 3.4 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | sulfuric acid | 7 mmol, 0.7 g | S(O)(O)(=O)=O | H2O4S
reactant | 3-Oxocyclohexanecarboxylic acid | 7.0 mmol, 1.0 g | O=C1CC(CCC1)C(=O)O | C7H10O3
reactant | t-BuOH | 35 mmol, 2.6 g | CC(C)(C)O | C4H10O
solvent | DCM | 28.1 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 3-oxocyclohexanecarboxylate | O=C1CC(CCC1)C(=O)OC(C)(C)C | C11H18O3
